US07049307B2
N-{2-[2-(cyclopentylamino)ethyl]-2H-indazol-6-yl}-N′-(4-phenoxyphenyl)urea
A mixture of 1-[2-(2-oxo-ethyl)-2H-indazol-6-yl]-3-(4-phenoxy-phenyl)urea (20 mg, 0.05 mmol) and cyclopentylamine (10 mL, 0.10 mmol) in THF (0.5 mL) was shaken at room temperature for 30 minutes. 1M Sodium cyanoborohydride in THF (104 μL, 0.10 mmol) was added and the solution was shaken at room temperature for 16 hours. The sample was diluted with ethyl acetate, washed with water, concentrated under reduced pressure and purified by RP-HPLC. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.6 (m, 6 H), 2.0 (m, 2 H), 3.55 (m, 2 H), 4.35 (m, 2 H), 4.70 (t, 2 H), 6.97 (m, 5 H), 7.12 (m, 1 H), 7.35 (m, 2 H), 7.52 (m, 2 H), 7.65 (d, 1 H), 7.95 (s, 1 H), 8.35 (s, 1 H) and 8.70 (m, 2 H.); MS (ESI) 456 (M+H)+.

reactant | 1-[2-(2-oxo-ethyl)-2H-indazol-6-yl]-3-(4-phenoxy-phenyl)urea | 0.05 mmol, 20 mg | O=CCN1N=C2C=C(C=CC2=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C22H18N4O3
reactant | cyclopentylamine | 0.10 mmol, 10 mL | C1(CCCC1)N | C5H11N
reactant | Sodium cyanoborohydride | 1M | C(#N)[BH3-].[Na+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 0.10 mmol, 104 μL | C1CCOC1 | C4H8O
product | N-{2-[2-(cyclopentylamino)ethyl]-2H-indazol-6-yl}-N′-(4-phenoxyphenyl)urea | C1(CCCC1)NCCN1N=C2C=C(C=CC2=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C27H29N5O2
